US09227956B2
4-Iodo-1-methyl-1H-pyrazole-5-carboxylic acid (301.68 g, 1.2 moles) was slurried in 1.2 L of DCM and DMF (2.3 g, 31 mmol) followed by addition of oxalyl chloride (115 mL, 1.3 moles) over 37 minutes and then stirred at room temperature for 3 h. To the resulting solution was added EtOH (750 mL, 12.9 mol) over 5 min followed by stirring at room temperature for 2 h. The crude product solution was concentrated to dryness in vacuo and then reconstituted in 1.2 L of warm heptane followed by filtration. The filtrate was concentrated by removing 500 mL of heptane, resulting in precipitation of solids. The solids were collected via filtration and dried to afford ethyl 4-iodo-1-methyl-1H-pyrazole-5-carboxylate as a white solid (297.6 g, 89% yield).

reactant | 4-Iodo-1-methyl-1H-pyrazole-5-carboxylic acid | 1.2 moles, 301.68 g | IC=1C=NN(C1C(=O)O)C | C5H5IN2O2
reactant | oxalyl chloride | 1.3 moles, 115 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | EtOH | 12.9 mol, 750 mL | CCO | C2H6O
solvent | DCM | 1.2 L | C(Cl)Cl | CH2Cl2
catalyst | DMF | 31 mmol, 2.3 g | CN(C)C=O | C3H7NO
product | ethyl 4-iodo-1-methyl-1H-pyrazole-5-carboxylate | 297.6 g, 89% yield | IC=1C=NN(C1C(=O)OCC)C | C7H9IN2O2
